US06818644B1
9-(4-{4-[6-(3-Chloro-phenoxy)-pyridin-2-yl]-piperazin-1-yl}-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoroethyl)-amide
Prepared analogously to Example 2 b from 1-[6-(3-chloro-phenoxy)-pyridin-2-yl]-piperazine and 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoroethyl)-amide.

reactant | 1-[6-(3-chloro-phenoxy)-pyridin-2-yl]-piperazine | ClC=1C=C(OC2=CC=CC(=N2)N2CCNCC2)C=CC1 | C15H16ClN3O
reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoroethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCBr)(F)F | C20H19BrF3NO
product | 9-(4-{4-[6-(3-Chloro-phenoxy)-pyridin-2-yl]-piperazin-1-yl}-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoroethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCN1CCN(CC1)C1=NC(=CC=C1)OC1=CC(=CC=C1)Cl)(F)F | C35H34ClF3N4O2
